US08247556B2
7H-Pyrrolo[2,3-d]pyrimidine-4-carbonitrile (86 mg, 0.597 mmol) was dissolved in EtOH (2 mL), then added concentrated HCl (0.2 mL, 2.39 mmol) and 10% Pd/C (20 mg). The reaction was put under a balloon of H2 gas and stirred for 6 h. The mixture was filtered through a pad of Celite®, washing with MeOH. The filtrate was concentrated in vacuo to yield C-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-methylamine dihydrochloride as an orange solid.

reactant | 7H-Pyrrolo[2,3-d]pyrimidine-4-carbonitrile | 0.597 mmol, 86 mg | N1=CN=C(C2=C1NC=C2)C#N | C7H4N4
reactant | HCl | 2.39 mmol, 0.2 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | C-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-methylamine dihydrochloride | Cl.Cl.N1=CN=C(C2=C1NC=C2)CN | InChI=1S/C7H8N4.2ClH/c8-3-6-5-1-2-9-7(5)11-4-10-6;;/h1-2,4H,3,8H2,(H,9,10,11);2*1H
